US07994168B2
g) 3-Amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-hexahydropyrazino[1,2-a]pyrimidine-4,7-dione
A solution of 79 mg of benzyl [6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate in 2 ml of a 33% solution of HBr in glacial acetic acid is stirred for 2 h. The reaction solution is mixed with aqueous sodium carbonate solution and extracted with ethyl acetate. The organic phase is dried over magnesium carbonate and concentrated under reduced pressure, and the residue is separated by HPLC (Knauer Eurospher-100-10-C18, water (0.1% trifluoroacetic acid)/acetonitrile (0.1% trifluoroacetic acid)=80/20→10/90). The desired product is obtained with MW=558.07 (calculated monoisotopic); measured value (M+H)+: 559.10.

reactant | benzyl [6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate | 79 mg | ClC1=CC=C(CC2C(N(CC3N2C(C(CN3S(=O)(=O)C3=C(C=C(C=C3)Cl)Cl)NC(OCC3=CC=CC=C3)=O)=O)C(C)C)=O)C=C1 | C31H31Cl3N4O6S
reactant | HBr | Br | BrH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-hexahydropyrazino[1,2-a]pyrimidine-4,7-dione | NC1CN(C2N(C1=O)C(C(N(C2)C(C)C)=O)CC2=CC=C(C=C2)Cl)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl | C23H25Cl3N4O4S
